US04814344
3-(1H-Imidazol-1-yl)-1-(2-phenyl-1H-indol-3-yl)-1-propanone
3-(Dimethylamino)-1-(2-phenyl-1H-indol-3-yl)-1-propanone was converted to the methiodide (36 g) which was then reacted with imidazole (34 g) to give a solid which was crystallised from methanol, to give the title compound (15.40 g), m.p. 206°-208°; λmax (EtOH) 255 nm (ε19,650), λmax 307.5 nm (ε12,840), identical with the material obtained in Example 3.

reactant | 3-(Dimethylamino)-1-(2-phenyl-1H-indol-3-yl)-1-propanone | CN(CCC(=O)C1=C(NC2=CC=CC=C12)C1=CC=CC=C1)C | C19H20N2O
reactant | imidazole | 34 g | N1C=NC=C1 | C3H4N2
product | 3-(1H-Imidazol-1-yl)-1-(2-phenyl-1H-indol-3-yl)-1-propanone | 15.40 g | N1(C=NC=C1)CCC(=O)C1=C(NC2=CC=CC=C12)C1=CC=CC=C1 | C20H17N3O
